US07943748B2
(4) Synthesis of (4-Bromonaphthalen-2-yl)-(5-fluorobenzo-[b]thiophen-2-yl)methanol
In a nitrogen stream, an n-butyllithium hexane solution (1.6 M, 1.68 ml, 2.68 mmol) was added dropwise to a solution of 5-fluorobenzo[b]thiophene (410 mg, 2.68 mmol) in THF (10 ml) and the reaction solution was stirred at the same temperature for 10 minutes. To this solution, a solution of 4-bromonaphthalene-2-carbaldehyde (600 mg, 2.55 mmol) in THF (5 ml) was added dropwise at −78° C. The obtained mixture was stirred at the same temperature for two hours, and then a saturated ammonium chloride aqueous solution was added and the mixture was extracted with ether. The organic layer was washed with a saturated sodium chloride aqueous solution and dried (anhydrous magnesium sulfate), and then the solvent was distilled under reduced pressure. The obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:10)] to obtain the title compound (680 mg, 69%).

reactant | n-butyllithium hexane | 2.68 mmol, 1.6 M, 1.68 ml | CCCCCC.C(CCC)[Li]
reactant | 5-fluorobenzo[b]thiophene | 2.68 mmol, 410 mg | FC1=CC2=C(SC=C2)C=C1 | C8H5FS
reactant | 4-bromonaphthalene-2-carbaldehyde | 2.55 mmol, 600 mg | BrC1=CC(=CC2=CC=CC=C12)C=O | C11H7BrO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (4-Bromonaphthalen-2-yl)-(5-fluorobenzo-[b]thiophen-2-yl)methanol | 680 mg, 69% | BrC1=CC(=CC2=CC=CC=C12)C(O)C1=CC2=C(S1)C=CC(=C2)F | C19H12BrFOS
